US04992433
To a stirred and cooled (ice bath) mixture of 2.8 parts of 6-[4-(3-hydroxypropyl)-1-piperidinyl]-3(2H)-pyridazinone, 65 parts of dichloromethane and 45 parts of tetrahydrofuran were added dropwise 2.8 parts of thionyl chloride. Upon complete addition, stirring was continued overnight at room temperature. The whole was evaporated and the residue was taken up in methylbenzene. The organic layer was evaporated again, yielding 3 parts (100%) of 6-[4-(3-chloropropyl)-1-piperidinyl]-3(2H)-pyridazinone as a residue (int. 100).

reactant | 6-[4-(3-hydroxypropyl)-1-piperidinyl]-3(2H)-pyridazinone | OCCCC1CCN(CC1)C=1C=CC(NN1)=O | C12H19N3O2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-[4-(3-chloropropyl)-1-piperidinyl]-3(2H)-pyridazinone | 100% | ClCCCC1CCN(CC1)C=1C=CC(NN1)=O | C12H18ClN3O
